US07304076B2
Step 2. Synthesis of N-Methyl-1-(methylsulfonyl)-4-piperidineamine
1-Methylsuylfonyl-4-piperidone (40.00 g, 0.226 mol), CH3CN (240 ml) and 40% CH3NH2 (20.4 ml, 0.263 mol) were added to a round bottom flask, and the mixture was stirred at room temperature for 1 hour. To another round bottom flask, NaBH(OAc)3 (60.00 g, 0.283 mol) and 120 ml of CH3CN were added. This solution was stirred at −10° C., to which the first mixture (derived from 1-methylsulfonyl-4-piperidone) was added slowly via an additional funnel. After the addition, the reaction was allowed to warm to room temperature and stirred overnight. The reaction mixture was concentarted to a small volume, to which 1N aq. NaOH (282 ml) was added. This resulting solution was extracted with CH2Cl2 (3×500 ml) followed by extraction with toluene until no product remained in the extraction solution. The combined organic layers were dried over Na2SO4. After filtration, the solution was concentrated in vacuo to give the product (29.0 g, 63%). 1H NMR (CDCl3) δ 3.66 (m, 2H), 2.84 (m, 2H), 2.76 (s, 3H), 2.52 (m, 1H), 2.42 (s, 3H), 1.96 (m, 2H), 1.45 (m, 2H). MS m/e 193 (M+H)+.

reactant | CH3NH2 | 0.263 mol, 20.4 ml | CN | CH5N
reactant | NaBH(OAc)3 | 0.283 mol, 60.00 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 1-methylsulfonyl-4-piperidone | CS(=O)(=O)N1CCC(CC1)=O | C6H11NO3S
reactant | NaOH | 1N, 282 ml | [OH-].[Na+]
solvent | CH3CN | 120 ml | CC#N | C2H3N
solvent | CH3CN | 240 ml | CC#N | C2H3N
product | N-Methyl-1-(methylsulfonyl)-4-piperidineamine | 29.0 g, 63% | CNC1CCN(CC1)S(=O)(=O)C | C7H16N2O2S
